US07812028B2
h) N—((R)-2-Cyclopropyl-2-hydroxy-propyl)-6-cyclopropylmethoxy-5-(4-fluoro-phenyl)-nicotinamide
The title compound was synthesized in analogy to Example 5d, using 5-(4-fluoro-phenyl)-6-cyclopropylmethoxy-nicotinic acid and (R)-α-(aminomethyl)-α-methyl-cyclopropanemethanol as starting materials, MS (ISP) 385.2 (M+H)+.

reactant | 5-(4-fluoro-phenyl)-6-cyclopropylmethoxy-nicotinic acid | FC1=CC=C(C=C1)C=1C(=NC=C(C(=O)O)C1)OCC1CC1 | C16H14FNO3
reactant | (R)-α-(aminomethyl)-α-methyl-cyclopropanemethanol | NC[C@](O)(C1CC1)C | C6H13NO
product | N—((R)-2-Cyclopropyl-2-hydroxy-propyl)-6-cyclopropylmethoxy-5-(4-fluoro-phenyl)-nicotinamide | C1(CC1)[C@@](CNC(C1=CN=C(C(=C1)C1=CC=C(C=C1)F)OCC1CC1)=O)(C)O | C22H25FN2O3
